US05840732
Synthesis of 3-[3-(imidazo[1,2-a]pyridin-5-ylthio)propyl]-thiazolidine-2,4-dione
In a nitrogen atmosphere, 3.87 g (20 mmol) of 3-(3-bromopropyl)thiazolidine-2,4-dione was added to a suspension of 3.0 g (20 mmol) of 5-mercaptoimidazo[1,2-a]pyridine, 2.76 g (20 mmol) of potassium carbonate and 3.00 g (20 mmol) of sodium iodide in 100 ml of N,N-dimethylformamide was added, followed by stirring at room temperature for 64 hours. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to yield 2.44 g (39.7%, light red-purple solid) of the desired product.

reactant | 3-(3-bromopropyl)thiazolidine-2,4-dione | 20 mmol, 3.87 g | BrCCCN1C(SCC1=O)=O | C6H8BrNO2S
reactant | 5-mercaptoimidazo[1,2-a]pyridine | 20 mmol, 3.0 g | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 20 mmol, 3.00 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[3-(imidazo[1,2-a]pyridin-5-ylthio)propyl]-thiazolidine-2,4-dione | N=1C=CN2C1C=CC=C2SCCCN2C(SCC2=O)=O | C13H13N3O2S2
